US07811595B2
Preparation of [(4-(4-Methyl-phenyl)pyridine-2-carbonyl)-amino]-acetic acid (25):
To a solution of [(4-(4-methyl-phenyl)pyridine-2-carbonyl)-amino]-acetic acid methyl ester, 24, (0.092 g, 0.32 mmol) in THF (2 mL) at room temperature is added H2O (1 mL) and LiOH.H2O (0.027 g, 0.64 mmol). The reaction is stirred for 16 hours after which time the solution is acidified using 1M HCl. The solvents are removed under reduced pressure and the solid that remains is suspended in a mixture of THF: MeOH and filtered. The filtrate is concentrated under reduced pressure and the resulting solid is triturated with MeOH and collected by filtration to provide 0.012 g (12% yield) of the desired compound as a colorless solid. 1H NMR (250 MHz, MeOD) δ ppm 8.69 (1H, d, J=4.8 Hz), 8.38 (1H, s), 7.86 (1H, d, J=6.2 Hz), 7.72 (2H, d, J=8.1 Hz), 7.38 (1H, d, J=7.9 Hz), 8.38 (1H, s), 2.44 (2H, s). HPLC-MS: m/z 271 [M+H]+.

reactant | [(4-(4-methyl-phenyl)pyridine-2-carbonyl)-amino]-acetic acid methyl ester | COC(CNC(=O)C1=NC=CC(=C1)C1=CC=C(C=C1)C)=O | C16H16N2O3
reactant | H2O | 1 mL | O | H2O
reactant | LiOH.H2O | 0.64 mmol, 0.027 g | O[Li].O
reactant | HCl | 1M | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | [(4-(4-Methyl-phenyl)pyridine-2-carbonyl)-amino]-acetic acid | 0.012 g, 12% yield | CC1=CC=C(C=C1)C1=CC(=NC=C1)C(=O)NCC(=O)O | C15H14N2O3
